US08183289B2
Methyl 4-(4-(2-tert-butoxy-2-oxoethyl)-2-cyanophenoxy)benzoate (11.60 g, 31.57 mmol) was dissolved in dioxane (160 mL) and the solution was cooled to 10° C. in an ice bath. LiOH—H2O, 1M (37.89 ml, 37.89 mmol) was added to the solution and the mixture was stirred at ambient temperature for 5 hours. The mixture was diluted with 2N HCl (100 mL) and CH2Cl2 (200 mL). Layers were separated and aqueous layer was extracted with CH2Cl2. The combined extracts were washed with brine (100 mL), dried over MgSO4, filtered through a Celite pad and concentrated under reduced pressure. The crude material was purified by silica gel chromatography to provide 4-(4-(2-tert-butoxy-2-oxoethyl)-2-cyanophenoxy)benzoic acid (7.29 g) as a white solid.

reactant | Methyl 4-(4-(2-tert-butoxy-2-oxoethyl)-2-cyanophenoxy)benzoate | 31.57 mmol, 11.60 g | C(C)(C)(C)OC(CC1=CC(=C(OC2=CC=C(C(=O)OC)C=C2)C=C1)C#N)=O | C21H21NO5
reactant | LiOH—H2O | O[Li].O
solvent | dioxane | 160 mL | O1CCOCC1 | C4H8O2
solvent | HCl | 2N, 100 mL | Cl | ClH
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-(2-tert-butoxy-2-oxoethyl)-2-cyanophenoxy)benzoic acid | 7.29 g | C(C)(C)(C)OC(CC1=CC(=C(OC2=CC=C(C(=O)O)C=C2)C=C1)C#N)=O | C20H19NO5
